US03974281
The reaction of 5-methyl-2-(1H)-pyridone with -3-trifluoromethyl-iodobenzene by the procedure of Example 1, gives a 78% yield of 5-methyl-1-(3'-trifluoromethylphenyl)-2-(1H)-pyridone.

reactant | 5-methyl-2-(1H)-pyridone | CC=1C=CC(NC1)=O | C6H7NO
reactant | 3-trifluoromethyl-iodobenzene | FC(C=1C=C(C=CC1)I)(F)F | C7H4F3I
product | 5-methyl-1-(3'-trifluoromethylphenyl)-2-(1H)-pyridone | 78% yield | CC=1C=CC(N(C1)C1=CC(=CC=C1)C(F)(F)F)=O | C13H10F3NO
